US06869947B2
Step A: 8-Chloro-1,3-dimethyl-7-(2-methylbenzyl)-3,7-dihydropurine-2,6-dione (18A)
From 8-Chorotheophylline (10 g, 47 mmol) and 2-methylbenzyl bromide (13.6 ml, 103 mmol). The benzyl bromide was added in two portions. First half at reaction start as described in general procedure (E), and the other half after 24 hours as the reaction had not completed.

reactant | 8-Chorotheophylline | 47 mmol, 10 g | ClC1=NC=2N(C(N(C)C(C2N1)=O)=O)C | C7H7ClN4O2
reactant | 2-methylbenzyl bromide | 103 mmol, 13.6 ml | CC1=C(CBr)C=CC=C1 | C8H9Br
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 8-Chloro-1,3-dimethyl-7-(2-methylbenzyl)-3,7-dihydropurine-2,6-dione | ClC1=NC=2N(C(N(C(C2N1CC1=C(C=CC=C1)C)=O)C)=O)C | C15H15ClN4O2
